US05534515
3c. 1-Benzyl-7-benzyloxy-3-bromo-2-methylpyrrolo[2,3-d]pyridazine
42.3 g (0.128 mol) of 1-benzyl-7-benzyloxy-2-methylpyrrolo[2,3-d]pyridazine and 6.6 ml (0.128 mol) of bromine are reacted in a total of 200 ml of dichloromethane as described for Example 3a. Yield: 85%, m.p.: 122°-123° C.

reactant | 1-benzyl-7-benzyloxy-2-methylpyrrolo[2,3-d]pyridazine | 0.128 mol, 42.3 g | C(C1=CC=CC=C1)N1C(=CC=2C1=C(N=NC2)OCC2=CC=CC=C2)C | C21H19N3O
reactant | bromine | 0.128 mol, 6.6 ml | BrBr | Br2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 1-Benzyl-7-benzyloxy-3-bromo-2-methylpyrrolo[2,3-d]pyridazine | Yield: 85% | C(C1=CC=CC=C1)N1C(=C(C=2C1=C(N=NC2)OCC2=CC=CC=C2)Br)C | C21H18BrN3O
